US04066436
Preparation of 1,3-Dimethyl-3-(5-benzylthio-1,3,4-thiadiazol-2-yl)urea
To a solution of 2-methylamino-5-benzylthio-1,3,4-thiadiazole (4.0 g) in ethyl acetate (100 ml) was added 1.5 g of methyl isocyanate. The reaction was stirred at room temperature for 2 hrs then heated at reflux for an additional 2 hrs. The product, 1,3-dimethyl-3-(5-benzylthio-1,3,4-thiadiazol-2-yl)urea, crystallized upon the addition of petroleum ether, was collected, washed with ether and dried to give 4.7 g, MP 139°-142° C.

reactant | 2-methylamino-5-benzylthio-1,3,4-thiadiazole | 4.0 g | CNC=1SC(=NN1)SCC1=CC=CC=C1 | C10H11N3S2
reactant | methyl isocyanate | 1.5 g | CN=C=O | C2H3NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1,3-Dimethyl-3-(5-benzylthio-1,3,4-thiadiazol-2-yl)urea | CNC(=O)N(C=1SC(=NN1)SCC1=CC=CC=C1)C | C12H14N4OS2
